US08124606B2
Compound 110: (S)-3-chloro-N-ethyl-4-(4-((6-oxo-6,6a,7,8,9,10-hexahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazin-3-yl)methyl)piperazin-1-yl)benzamide
To a suspension of (S)-3-(hydroxymethyl)-7,8,9,10-tetrahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazin-6(6aH)-one (81 mg, 0.347 mmol) in propiononitrile (1.2 mL) was added (cyanomethyl)trimethylphosphonium iodide (101 mg, 0.417 mmol) and DIEA (182 μl, 1.042 mmol) and finally 3-chloro-N-ethyl-4-(piperazin-1-yl)benzamide hydrochloride (106 mg, 0.347 mmol). The vial was heated to 90° C. for 16 hours. The crude rxn was cooled to RT, DMSO (1 ml) was added, and purified via HPLC (55-90, basic). The fractions were collected, concentrated until a precipitate was visible and filtered. The solids were washed with water and collected to retrieve the product as a white solid (70 mg, 20% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.48 (s, 1H), 8.43 (t, J=5.4 Hz, 1H), 7.87 (d, J=2.3 Hz, 1H), 7.76 (dd, J=8.3, 2.0 Hz, 1H), 7.66 (d, J=1.8 Hz, 1H), 7.17 (d, J=8.6 Hz, 1H), 6.97 (d, J=2.0 Hz, 1H), 4.50 (d, J=12.9 Hz, 1H), 3.84 (dd, J=11.4, 2.8 Hz, 1H), 3.38 (s, 2H), 3.18-3.31 (m, 2H), 3.03 (br. s., 4H), 2.60 (td, J=12.7, 2.7 Hz, 1H), 2.51 (br. s., 4H), 2.04 (d, J=12.9 Hz, 1H), 1.85 (d, J=12.1 Hz, 1H), 1.64 (d, J=12.6 Hz, 1H), 1.32-1.58 (m, 3H), 1.10 (t, J=7.1 Hz, 3H). [M+H] calc'd for C25H31ClN6O2, 483; found, 483.

reactant | (S)-3-(hydroxymethyl)-7,8,9,10-tetrahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazin-6(6aH)-one | 0.347 mmol, 81 mg | OCC1=CC=2NC([C@H]3N(C2N=C1)CCCC3)=O | C12H15N3O2
reactant | (cyanomethyl)trimethylphosphonium iodide | 0.417 mmol, 101 mg | [I-].C(#N)C[P+](C)(C)C
reactant | DIEA | 1.042 mmol, 182 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-chloro-N-ethyl-4-(piperazin-1-yl)benzamide hydrochloride | 0.347 mmol, 106 mg | Cl.ClC=1C=C(C(=O)NCC)C=CC1N1CCNCC1
solvent | propiononitrile | 1.2 mL | C(CC)#N | C3H5N
solvent | DMSO | 1 ml | CS(=O)C | C2H6OS
product | (S)-3-chloro-N-ethyl-4-(4-((6-oxo-6,6a,7,8,9,10-hexahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazin-3-yl)methyl)piperazin-1-yl)benzamide | 70 mg, 20% yield | ClC=1C=C(C(=O)NCC)C=CC1N1CCN(CC1)CC1=CC=2NC([C@H]3N(C2N=C1)CCCC3)=O | C25H31ClN6O2
